US06967204B2
Cyclopentanol (7.7 ml, 85 mmol) and triphenylphosphine (28 g, 107 mmol) were added to a solution of (4-hydroxy-3-methyoxy-phenyl)-acetic acid methyl ester (14 g, 71 mmol) in tetrahydrofuran (280 ml) under nitrogen at 0° C. Diethylazodicarboxylate (15.7 ml, 100 mmol) was then added dropwise and the reaction was allowed to warm to room temperature and stirred for 44 hours. The solvent was removed under reduced pressure, pentane (200 ml) was added and the suspension was filtered. The filtrate was concentrated under reduced pressure and purified by flash column chromatography on silica gel eluting with a solvent gradient of cyclohexane:ethyl acetate (90:10 changing to 85:15, by volume) to give (4-cyclopentyloxy-3-methoxy-phenyl)-acetic acid methyl ester (12.4 g) as a colourless oil. 1H NMR (400 MHz, CD3OD): δ=6.79-6.85 (2H, m), 6.73-6.79 (1H, d), 4.73-4.79 (1H, brs), 3.79 (3H, s), 3.64 (3H, s), 3.53 (2H, s), 1.74-1.89 (6H, m), 1.56-1.67 (2H, m) ppm. LRMS (electrospray): m/z [M+Na]+ 287. Anal. Found C, 68.01; H, 7.74. C15H20O4 requires C, 68.16; H, 7.63%.

reactant | Cyclopentanol | 85 mmol, 7.7 ml | C1(CCCC1)O | C5H10O
reactant | triphenylphosphine | 107 mmol, 28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (4-hydroxy-3-methyoxy-phenyl)-acetic acid methyl ester | 71 mmol, 14 g | COC(CC1=CC(=C(C=C1)O)OC)=O | C10H12O4
reactant | Diethylazodicarboxylate | 100 mmol, 15.7 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 280 ml | O1CCCC1 | C4H8O
product | (4-cyclopentyloxy-3-methoxy-phenyl)-acetic acid methyl ester | 12.4 g | COC(CC1=CC(=C(C=C1)OC1CCCC1)OC)=O | C15H20O4
